US09376429B2
Preparation of 5-chloro-4-((6-(3,4-difluorophenyl)-4-(1H-pyrazol-4-yl)pyridin-3-yl)oxy)-2-fluoro-N-(thiazol-4-yl)benzenesulfonamide
15.0 mg (0.03 mmol) of 5-chloro-4-((6-chloro-4-(1H-pyrazol-4-yl)pyridin-3-yl)oxy)-2-fluoro-N-(thiazol-4-yl)benzenesulfonamide was dissolved in 1.5 mL of 1,4-dioxane, and 7.1 mg (0.05 mmol) of (3,4-difluorophenyl)boronic acid was added thereto, and then 3.5 mg (10 mol %) of Pd(PPh3)4, 12.4 mg (0.09 mmol) of K2CO3, and 0.3 mL of H2O were added thereto. After reacting with microwave reactor at 150° C. for 30 minutes, the solvent was removed, and the remaining material was diluted with ethyl acetate and the organic layer was separated, and washed with saturated sodium chloride. The organic layer was collected, dried with magnesium sulfate to remove water, and concentrated under reduced pressure, and the residue was purified by column chromatography (developing solvent, dimethylchloride:methanol=20:1) to obtain 9.0 mg (31.9% yield) of the title compound.

reactant | 5-chloro-4-((6-chloro-4-(1H-pyrazol-4-yl)pyridin-3-yl)oxy)-2-fluoro-N-(thiazol-4-yl)benzenesulfonamide | 0.03 mmol, 15.0 mg | ClC=1C(=CC(=C(C1)S(=O)(=O)NC=1N=CSC1)F)OC=1C=NC(=CC1C=1C=NNC1)Cl | C17H10Cl2FN5O3S2
reactant | (3,4-difluorophenyl)boronic acid | 0.05 mmol, 7.1 mg | FC=1C=C(C=CC1F)B(O)O | C6H5BF2O2
reactant | K2CO3 | 0.09 mmol, 12.4 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | H2O | 0.3 mL | O | H2O
solvent | 1,4-dioxane | 1.5 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(PPh3)4 | 3.5 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-chloro-4-((6-(3,4-difluorophenyl)-4-(1H-pyrazol-4-yl)pyridin-3-yl)oxy)-2-fluoro-N-(thiazol-4-yl)benzenesulfonamide | 9.0 mg, 31.9% yield | ClC=1C(=CC(=C(C1)S(=O)(=O)NC=1N=CSC1)F)OC=1C=NC(=CC1C=1C=NNC1)C1=CC(=C(C=C1)F)F | C23H13ClF3N5O3S2
